US08664220B2
Step 1: (6-Bromo-pyridin-2-yl)-pyrrolidin-1-yl-methanone
Prepared according to the procedure described in Example 121, Step 1, using 6-bromo-pyridine-2-carboxylic acid and pyrrolidine.

reactant | 6-bromo-pyridine-2-carboxylic acid | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (6-Bromo-pyridin-2-yl)-pyrrolidin-1-yl-methanone | BrC1=CC=CC(=N1)C(=O)N1CCCC1 | C10H11BrN2O
